US04434175
Potassium thiocyanate (6.44 g, 66 mmol) is suspended in 18 ml of methanol and cooled to -78° under nitrogen. A solution of 1.75 ml of bromine (33 mmol) in 10 ml methanol is added dropwise. The resulting light yellow suspension is stirred for an additional 5 minutes at -78° before 4.17 g (30 mmole) of 2-methoxycarbonyl-1-methylpyrrole in 5 ml methanol is added all at once. After stirring and gradual warming to room temperature, the reaction mixture is poured into 250 ml of ice water, stirred vigorously and filtered. The solid is washed with water, dissolved in methylene chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo to give a white solid which after recrystallization from hexane-ethyl acetate gives 2.8 g of pure 4-cyanothio-2-methoxycarbonyl-1-methylpyrrole.

reactant | Potassium thiocyanate | 66 mmol, 6.44 g | [S-]C#N.[K+]
reactant | bromine | 33 mmol, 1.75 ml | BrBr | Br2
reactant | 2-methoxycarbonyl-1-methylpyrrole | 30 mmole, 4.17 g | COC(=O)C=1N(C=CC1)C | C7H9NO2
solvent | methanol | 18 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 4-cyanothio-2-methoxycarbonyl-1-methylpyrrole | 2.8 g | C(#N)SC=1C=C(N(C1)C)C(=O)OC | C8H8N2O2S
